US06506744B1
To a slurry of glycine ethyl ester hydrochloride (3.5 g, 25 mmol) in dichloromethane (30 ml) was added triethylamine (3.44 ml, 25 mmol) and N-methylisatoic acid anhydride (3.5 g, 20 mmol). After stirring overnight the reaction mixture was washed with water and the organic layer transferred to a round bottomed flask. To this solution was added water (30 ml) followed by bromoacetyl bromide (2.9 ml, 33 mmol). The resulting emulsion was vigorously stirred and neutralized by addition of a saturated aqueous solution of Na2CO3. The organic layer was separated and dried over Na2SO4. After filtration into a round bottomed flask DBU (4.45 ml, 30 mmol) was added to the filtrate. After stirring for 1 h at room temperature the reaction mixture was washed once with aqueous KHSO4 (0.1 N) and twice with aqueous HCl (1N). The aqueous extracts were washed with dichloromethane. The combined organic extracts were dried over Na2SO4, filtered and the solvents evaporated to give (1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-acetic acid ethyl ester as a brown oil (5.1 g): MS (EI): 276 (M)+.

reactant | glycine ethyl ester hydrochloride | 25 mmol, 3.5 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 25 mmol, 3.44 ml | C(C)N(CC)CC | C6H15N
reactant | N-methylisatoic acid anhydride | 20 mmol, 3.5 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | bromoacetyl bromide | 33 mmol, 2.9 ml | BrCC(=O)Br | C2H2Br2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DBU | 30 mmol, 4.45 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-acetic acid ethyl ester | 5.1 g | C(C)OC(CN1CC(N(C2=C(C1=O)C=CC=C2)C)=O)=O | C14H16N2O4
